US05663431
A) 1-Benzhydryl-3-(N-Boc-amino)azetidine
A mixture containing 5 g of 3-amino-1-benzhydrylazetidine and 5 g of (Boc)2O in 130 ml of dioxane and 4 ml of TEA is stirred at RT for 2 hours. The dioxane is evaporated off and the residue is taken up with AcOEt and washed with water. It is dried over sodium sulfate and then evaporated to dryness. The expected product crystallizes from iso ether. m=6 g.

reactant | 3-amino-1-benzhydrylazetidine | 5 g | NC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C16H18N2
reactant | (Boc)2O | 5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 130 ml | O1CCOCC1 | C4H8O2
product | 1-Benzhydryl-3-(N-Boc-amino)azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC(=O)OC(C)(C)C | C21H26N2O2
